US07132426B2
In a 50 mL round-bottom flask was placed 1-(2-fluoro-4-methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine (80 mg, 0.2 mmol) and triethylamine(200 μl). DMF (3 mL) was added to completely dissolve the solid material. The reaction flask was immersed in an ice-bath. Isopropyl chloroformate (1.0M in toluene, 0.22 mL) was added to the solution and the mixture was stirred 2 h under N2 at 0° C. After all of the starting amine was completely converted as indicated by LCMS, the reaction was stopped by quenching with water. The reaction mixture was then concentrated under vacuum and purified by preparative HPLC to give 4-[1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound A129). 1H NMR (CDCl3, 400 MHz) δ 1.27 (d, 6H), 1.9 (m, 2H), 2.12 (m, 2H), 3.13 (s, 3H), 3.40 (m, 2H), 3.91 (m, 2H), 4.97 (m, 1H), 5.63 (m, 1H), 7.95 (m, 3H), 8.34 (s, 1H), 8.63 (s, 1H). Exact mass calculated for C21H24FN5O5S: 477.15, found 478.2 (MH+).

reactant | 1-(2-fluoro-4-methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine | 0.2 mmol, 80 mg | FC1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC=2C1=NC=NC2OC2CCNCC2 | C17H18FN5O3S
reactant | Isopropyl chloroformate | 1.0M, 0.22 mL | ClC(=O)OC(C)C | C4H7ClO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-[1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)OC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F | C21H24FN5O5S
